US04343811
2-[1-Butyl-2-methyl-3-(4-pyridyl)-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 1-butyl-2-methyl-3-(4-pyridyl)-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 1-butyl-2-methyl-3-(4-pyridyl)-1H-indole-5-ol | C(CCC)N1C(=C(C2=CC(=CC=C12)O)C1=CC=NC=C1)C | C18H20N2O
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[1-Butyl-2-methyl-3-(4-pyridyl)-1H-indole-5-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CCCC)C)C1=CC=NC=C1)=O | C24H30N2O3
